US09303033B2
(Z)-5-((5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (75 mg, 0.23 mmol) was suspended in 1,4-dioxane (1.6 mL). N-(3-aminophenyl)acetamide (52 mg, 0.35 mmol), Cs2CO3 (105 mg, 0.32 mmol), (±)-BINAP (9 mg, 0.06 mmol) and palladium(II) acetate (7 mg, 0.04 mmol) were then added. The mixture was sealed and irradiated at 120° C. for 30 min in the microwave. H2O (8 mL) was added and the precipitate was filtered off and dried. The crude residue was purified via flash column chromatography (2.5-3.5% MeOH/dichloromethane) to yield (Z)—N-(3-(7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)phenyl)acetamide (12 mg, 12%) as a bright yellow solid. LCMS (ES): >90% pure, m/z 433 [M+1]+.

reactant | (Z)-5-((5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.23 mmol, 75 mg | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C/2\C(NC(N2)=O)=O | C13H11ClN6O2
reactant | N-(3-aminophenyl)acetamide | 0.35 mmol, 52 mg | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | Cs2CO3 | 0.32 mmol, 105 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | H2O | 8 mL | O | H2O
solvent | 1,4-dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.04 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (Z)—N-(3-(7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-ylamino)phenyl)acetamide | 12 mg, 12% | C1(CC1)NC1=CC(=NC=2N1N=CC2\C=C\2/NC(NC2=O)=O)NC=2C=C(C=CC2)NC(C)=O | C21H20N8O3
